US05356882
Preparation of benzyl 3,5-di-O-benzyl-2-deoxy-1,4-dithio-D-erythro-pentofuranoside
A suspension of 3,5-di-O-benzyl-2-deoxy-4-O-methanesulphonyl L-threo-pentose dibenzyl dithioacetal (29.4 g, 47.4 mmol), sodium iodide (74.0 g, 494 mmol), barium carbonate (148 g, 750 mmol) and dry acetone (1 L) was boiled under reflux for 42 hours. At the end of this time the suspension was filtered and the solids were washed with chloroform. The filtrate was sequentially washed with water, sodium thiosulphate solution (5%) and water, dried (magnesium sulphate) and evaporated. The resultant residue was applied to a silica gel column, eluted with hexane-ethyl acetate (9:1). Combination of the appropriate fractions gave the title product as a clear, slightly yellow, syrup, and recovered starting material.

reactant | 3,5-di-O-benzyl-2-deoxy-4-O-methanesulphonyl L-threo-pentose dibenzyl dithioacetal | 47.4 mmol, 29.4 g | C(C1=CC=CC=C1)SC(C[C@H](OCC1=CC=CC=C1)[C@@H](OS(=O)(=O)C)COCC1=CC=CC=C1)SCC1=CC=CC=C1 | C34H38O5S3
reactant | sodium iodide | 494 mmol, 74.0 g | [I-].[Na+]
reactant | barium carbonate | 750 mmol, 148 g | C([O-])([O-])=O.[Ba+2]
solvent | acetone | 1 L | CC(=O)C | C3H6O
product | benzyl 3,5-di-O-benzyl-2-deoxy-1,4-dithio-D-erythro-pentofuranoside | C(C1=CC=CC=C1)O[C@H]1CC(SCC2=CC=CC=C2)S[C@@H]1COCC1=CC=CC=C1 | C26H28O2S2
